US05618836
Ethyl (±)-6-[(3E)-4-(1,2-Epoxy-2,6,6-trimethylcyclohexanyl)but-3-en-1-ynyl)nicotinate (Compound 5)
0.106 g (0.310 mmol) of 50% meta-chloroperoxybenzoic acid (MCPBA) was added to a solution of 0.1 g (0.310 mmol) of ethyl 5-[(3E)-4-(2,6,6-trimethyl-1-cyclohexenyl)but-3-en-1-ynyl)nicotinate (used as a mixture with 0.6 g (0.310 mmol) of ethyl 3-chloronicotinate), in 10 mL of anhydrous diethyl ether under argon was stirred at ambient temperature for 18 hours. The solution was treated with 10 mL of water and extracted with 3×50 mL ether.

reactant | meta-chloroperoxybenzoic acid | 0.310 mmol, 0.106 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ethyl 5-[(3E)-4-(2,6,6-trimethyl-1-cyclohexenyl)but-3-en-1-ynyl)nicotinate | 0.310 mmol, 0.1 g | CC1=C(C(CCC1)(C)C)/C=C/C#CC=1C=NC=C(C(=O)OCC)C1 | C21H25NO2
reactant | ethyl 3-chloronicotinate | 0.310 mmol, 0.6 g | ClC1(C(=O)OCC)CN=CC=C1 | C8H10ClNO2
reactant | water | 10 mL | O | H2O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | Ethyl (±)-6-[(3E)-4-(1,2-Epoxy-2,6,6-trimethylcyclohexanyl)but-3-en-1-ynyl)nicotinate | O1C2(C1(CCCC2(C)C)C)/C=C/C#CC2=NC=C(C(=O)OCC)C=C2 | C21H25NO3
